US05207947
(1) Synthesis of 4 n dodecyloxybenzoic acid
A solution of dodecylbromide (8.2 g, 4-hydroxybenzoic acid (5 g) and potassium carbonate (5 g) in dimethylformamide (100 ml) was stirred at 130° C. for two hours. The solution was poured in water and neutralized with dilute aqueous hydrochloric acid solution. Diethyl ether was added in order to effect extraction and the extracted layer was distilled to remove the solvent. The residue was added to a solution of sodium hydroxide (3 g). water (10 ml) and ethanol(50 ml) and the solution was refluxed for about one day. The solution was neutralized with dilute aqueous hydrochloric acid solution and distilled to remove the solvent and concentrated. Solid collected was recrystallized from water/ethanol to obtain the titled compound (4.9 g).

reactant | dodecylbromide | C(CCCCCCCCCCC)Br | C12H25Br
reactant | 4-hydroxybenzoic acid | 5 g | OC1=CC=C(C(=O)O)C=C1 | C7H6O3
reactant | potassium carbonate | 5 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | Diethyl ether | C(C)OCC | C4H10O
product | dodecyloxybenzoic acid | 4.9 g | C(CCCCCCCCCCC)OC1=C(C(=O)O)C=CC=C1 | C19H30O3
